US05624935
5-{4-(Imidazo[1,2-a]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 920 mg of imidazo[1,2-a]-pyridin-2-ylmethanol (prepared as described in Preparation 20), 2.9 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 1.4 g of tributylphosphine, 1.65 g of 1,1'-(azodicarbonyl)dipiperidine and 60 ml of benzene were used, to give 3.1 g of the title compound having Rf=0.71 (on silica gel thin layer chromatography using a 10:1 by volume mixture of ethyl acetate and ethanol as the developing solvent).

reactant | imidazo[1,2-a]-pyridin-2-ylmethanol | 920 mg | N=1C(=CN2C1C=CC=C2)CO | C8H8N2O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 2.9 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.4 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.65 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-(Imidazo[1,2-a]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 3.1 g | N=1C(=CN2C1C=CC=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C37H29N3O3S
